US05310743
(2R*,4S*)-2-Benzyl-1-(2-phenylethyl)-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine
209 μl (0.936 mmol) of phenylacetaldehyde are added dropwise over the course of 10 minutes to a solution of 100 mg (0.233 mmol) of (2R*,4S*)-2-benzyl-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine, 58 mg (0.702 mmol) of sodium acetate, 44 mg (0.702 mmol) of sodium cyanoborohydride and 67 μl (1.17 mmol) of acetic acid in 2 ml of ethanol at room temperature. The reaction mixture is left to stir at room temperature for 16 hours. The residue after evaporation in a rotary evaporator is taken up in ethyl acetate, and the organic phase is washed with water and with brine, dried over magnesium sulfate and evaporated to dryness. The yellow oil is chromatographed on silica gel with methylene chloride/methanol/conc. ammonia (2000:50:1). The title compound is obtained as oil. TLC: methylene chloride/methanol/conc. ammonia (2000:50:1) Rf =0.33, FD-MS: M+ =531.

reactant | phenylacetaldehyde | 0.936 mmol, 209 μl | C1(=CC=CC=C1)CC=O | C8H8O
reactant | (2R*,4S*)-2-benzyl-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine | 0.233 mmol, 100 mg | C(C1=CC=CC=C1)[C@H]1NCC[C@@H](C1)N(C(C(F)(F)F)=O)CC1=CC=NC2=CC=CC=C12 | C24H24F3N3O
reactant | sodium acetate | 0.702 mmol, 58 mg | C(C)(=O)[O-].[Na+]
reactant | sodium cyanoborohydride | 0.702 mmol, 44 mg | C(#N)[BH3-].[Na+]
reactant | acetic acid | 1.17 mmol, 67 μl | C(C)(=O)O | C2H4O2
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | (2R*,4S*)-2-Benzyl-1-(2-phenylethyl)-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine | C(C1=CC=CC=C1)[C@H]1N(CC[C@@H](C1)N(C(C(F)(F)F)=O)CC1=CC=NC2=CC=CC=C12)CCC1=CC=CC=C1 | C32H32F3N3O
